US08183271B2
Methyl 4-[(4E)-5-{2-[(4-tert-butylbenzyl)oxy]phenyl}-3-(4-cyanobenzyl)pent-4-en-1-yl]benzoate
A solution of 1.4 g (3.13 mmol, 92% pure) of methyl E-4-[3-(4-cyanobenzyl)-5-(2-hydroxyphenyl)pent-4-enyl]benzoate in 7 ml of dry acetonitrile is mixed with 1.42 g (6.26 mmol) 4-(tert-butyl)benzyl bromide and 1.30 g (9.39 mmol) of anhydrous potassium carbonate and heated under reflux for 12 hours. The mixture is then filtered and concentrated to dryness. The residue is directly purified by chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1, then 1:5). 1.85 g (3.32 mmol, 93% purity, 98% of theory) of an oil are isolated.

reactant | methyl E-4-[3-(4-cyanobenzyl)-5-(2-hydroxyphenyl)pent-4-enyl]benzoate | 3.13 mmol, 1.4 g | C(#N)C1=CC=C(CC(CCC2=CC=C(C(=O)OC)C=C2)\C=C\C2=C(C=CC=C2)O)C=C1 | C27H25NO3
reactant | 4-(tert-butyl)benzyl bromide | 6.26 mmol, 1.42 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | potassium carbonate | 9.39 mmol, 1.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | Methyl 4-[(4E)-5-{2-[(4-tert-butylbenzyl)oxy]phenyl}-3-(4-cyanobenzyl)pent-4-en-1-yl]benzoate | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)/C=C/C(CCC2=CC=C(C(=O)OC)C=C2)CC2=CC=C(C=C2)C#N)C=C1 | C38H39NO3
